US03998966
A mixture of 25 g. of methyl 6-methyl-2-naphthyl-α-chloroacetate, 10 g. of sodium hydroxide, and 200 ml. of ethanol is refluxed for two hours. The cooled mixture is acidified by the addition of 1N hydrochloric acid. The resulting product, methyl 6-methyl-2-naphthyl-α-hydroxyacetate, is isolated by extractions with methylene chloride. The product is oxidized by means of the oxidation procedure described in Example 6 to give methyl 6-methyl-2-naphthyl-α-oxoacetate. The latter product is refluxed with 31 g. of difluoromethylene triphenyl phosphorane (prepared by allowing sodium chlorodifluoroacetate to react with triphenyl phosphine in diethyl ether) in 150 ml. of benzene. The resulting mixture is distilled under vacuum. The distillate is evaporated to yield methyl 2-naphthyl-α,α-difluoromethyleneacetate.

reactant | methyl 6-methyl-2-naphthyl-α-chloroacetate | CC=1C=C2C=CC(=CC2=CC1)C(C(=O)OC)Cl | C14H13ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 6-methyl-2-naphthyl-α-hydroxyacetate | CC=1C=C2C=CC(=CC2=CC1)C(C(=O)OC)O | C14H14O3
